US07378418B2
244I. Preparation of 7-(4-Chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a THF (100 mL) solution of carbonyldiimidazole (CDI) (7.25 g, 44.71 mmol) was added 1-(5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine (3.8 g, 12.76 mmol) portionwise at RT under an atmosphere of argon. The reaction mixture was heated to reflux for 30 min. After this time, the reaction mixture was cooled to RT, and subsequently concentrated under reduced pressure to obtain a gum to which water (100 mL) was added. The resulting solid was collected by filtration, washed with water (2×50 mL) followed by 1:1 (v/v) of hexanes/ether (2×50 mL) to give the title compound, 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (3.75 g, 91%) as yellow solid. HPLC: 1.67 min; MS, M+H=324; 1H NMR (DMSO-d6) δ 12.90 (1H, s), 8.59 (2H, d, J=10.0 Hz), 8.41 (1H, s), 7.44 (2H, d, J=10.0 Hz), 7.32 (2H, d, J=5.0 Hz), 7.28 (2H, d, J=5.0 Hz).

reactant | carbonyldiimidazole | 44.71 mmol, 7.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine | 12.76 mmol, 3.8 g | ClC1=CC=C(C=C1)C=1C(=C(N=NC1)NN)C1=CC=NC=C1 | C15H12ClN5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 3.75 g, 91% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O
